US04481957
The reaction of benzaldehyde and 5,6,7,8-tetrahydroquinoxaline is carried out on the same molar scale and in the same manner as described in Example V. The crude reaction product is submitted to bulb-to-bulb distillation [oven temp. ~60° C. (0.1 mm Hg)] to remove volatiles. Column chromatography (30 g silica gel developed in 3% acetone/hexane), followed by high performance liquid chromatography (Magnum®9, Partisil®10, developed in 4% acetone/2,2,4 trimethylpentane) provides 6% yield of 2-benzoyl-5,6,7,8-tetrahydroquinoxaline as a solid (m.p. 61.5°-63.5° C.). The structure is confirmed by IR and NMR spectroscopy, and by elemental analysis.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5,6,7,8-tetrahydroquinoxaline | N1=CC=NC=2CCCCC12 | C8H10N2
product | 2-benzoyl-5,6,7,8-tetrahydroquinoxaline | 6% yield | C(C1=CC=CC=C1)(=O)C1=NC=2CCCCC2N=C1 | C15H14N2O
